US07834000B2
To a solution spiro[indene-1,4′-piperidin]-3(2H)-one hydrochloride (5.0 g, 24.84 mmol) and Et3N (7.54 g, 74.53 mol) in CH2Cl2 (50 mL) was added drop-wise Cbz-Cl (4.66 g, 27.33 mmol) at 0° C. The reaction was allowed to warm to room temperature and stirred overnight. The precipitate was filtered, washed with Et2O and dried to furnish benzyl 3-oxo-2,3-dihydrospiro[indene-1,4′-piperidine]-1′-carboxylate (6.1 g, yield 99%).

reactant | spiro[indene-1,4′-piperidin]-3(2H)-one hydrochloride | 24.84 mmol, 5.0 g | Cl.N1CCC2(CC1)CC(C1=CC=CC=C12)=O
reactant | Et3N | 74.53 mol, 7.54 g | CCN(CC)CC | C6H15N
reactant | Cbz-Cl | 27.33 mmol, 4.66 g | C1=CC=C(C=C1)COC(=O)Cl | C8H7ClO2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | benzyl 3-oxo-2,3-dihydrospiro[indene-1,4′-piperidine]-1′-carboxylate | 6.1 g, yield 99% | O=C1CC2(CCN(CC2)C(=O)OCC2=CC=CC=C2)C2=CC=CC=C12 | C21H21NO3
